Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors
 
Attending: ___.
 
Chief Complaint:
Hypertension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: ___ with a PMH of hypertension 
currently not on medication, who presented to the ED after he 
was found to have BP of 228/140 and 236/140 during a routine 
physical exam.  
 He reports that he has not had any medical care for the past 
___ years. He previously took medication for hypertension but 
has not taken any for some time. He did have angioedema on an 
ACE inhibitor. He denies any headaches, blurred vision, chest 
pain, or shortness of breath.  
 He does report right hand weakness and loss of fine motor 
skills in his right hand. This has been present for 3 weeks. He 
reports that his right arm feels weaker and his hand is clumsy 
requiring him to drop things.  
 He has been under a significant amount of stress lately, 
including a divorce, suicide of a cousin. He has lost ___ 
pounds over the past ___ months.  
 Regarding his tox screen positive for cocaine, he reports only 
one time usage on ___.  
 In the ED, initial vitals were: 99.2 87 ___ RA  
 - Exam notable for mild R arm motor weakness in an upper motor 
neuron pattern consistent with a chronic small lacunar stroke  
 - Labs notable for tox screen positive for cocaine  
 - Imaging:  
 Neurology was consulted and felt that his right sided weakness 
could be consistent with small lacunae infarct. They recommended 
non-urgent MRI head and workup for CVA risk factors  
 Patient was given 5mg IV labetalol X 2. BP decreased to 169/100 
prior to transfer.  
 On the floor, initial vitals were 98.5 ___ 98 RA. 
Repeat EKG showed slight worsening of ST elevations in V2-V3, 
possible early repolarization but no prior EKGs available for 
comparison. Patient was asymptomatic without any chest pain or 
shortness of breath. He was given ASA 325mg and benzodiazepine 
given recent cocaine use. Initial troponin from the ED was 
negative. Cardiology reviewed the EKG and felt is was mostly 
likely consistent with early repolarization in part secondary to 
LVH, given initial negative troponin and patient asymptomatic. 
Repeat troponin was < 0.01.  

 
Past Medical History:
HTN, used to take a blood pressure medication in the distant  
 past but can't even remember which one.
 
Social History:
___
Family History:
___ daughter, healthy. ___ sister, healthy. Mom alive at ___ 
with lupus. Dad passed at ___ from pancreatic cancer.
 
Physical Exam:
PHYSICAL EXAM
==============
Vital Signs: 98.5 ___ 98 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended  
 GU: No foley  
 Ext: Warm, well perfused, no clubbing, cyanosis or edema  
 Neuro: CNII-XII intact, ___ strength L upper and lower 
extremities, R lower extremity, strength in RUE ___ apart for 
weakness in intrinsic hand muscles and thumb abduction, grossly 
normal sensation, 2+ reflexes bilaterally, gait deferred.  
 Access: peripherals  

 
Pertinent Results:
___ 11:07PM URINE  HOURS-RANDOM
___ 11:07PM URINE  HOURS-RANDOM
___ 11:07PM URINE  GR HOLD-HOLD
___ 11:07PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS* amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:07PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:07PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 11:07PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 11:07PM URINE  MUCOUS-RARE
___ 06:27PM   ___ PTT-31.9 ___
___ 06:04PM   GLUCOSE-113* UREA N-17 CREAT-1.0 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-23 ANION GAP-16
___ 06:04PM   GLUCOSE-113* UREA N-17 CREAT-1.0 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-23 ANION GAP-16
___ 06:04PM   ALT(SGPT)-28 AST(SGOT)-19 ALK PHOS-69 TOT 
BILI-0.6
___ 06:04PM   cTropnT-<0.01
___ 06:04PM   ALBUMIN-4.0 CALCIUM-9.4 PHOSPHATE-3.7 
MAGNESIUM-2.1
___ 06:04PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:04PM   WBC-5.9 RBC-4.60 HGB-13.8 HCT-41.7 MCV-91 
MCH-30.0 MCHC-33.1 RDW-12.4 RDWSD-41.1
___ 06:04PM   NEUTS-64.0 ___ MONOS-9.9 EOS-2.9 
BASOS-0.2 IM ___ AbsNeut-3.75 AbsLymp-1.33 AbsMono-0.58 
AbsEos-0.17 AbsBaso-0.01
___ 06:04PM   PLT COUNT-___ with a PMH of hypertension currently not on medication, who 
presented to the ED after he was found to have BP of 228/140 and 
236/140 during a routine physical exam. Patient was treated with 
IV then PO labetalol, then transitioned to PO HCTZ and 
Amlodipine. Patient was worked up for stroke due to 3 week h/o 
of decreased strength in R hand and R hip. MRI was remarkable 
for lacunar strokes and significant white matter disease 
consistent with longstanding severe hypertension. Additionally 
stroke work up revealed that they patient was profoundly 
hyperthyroid which explains his recent weight loss. 

# Hypertensive Urgency: He was started on HCTZ 25 mg and 
Amlodipine 5 mg with good effect in blood pressure control. Long 
hx of HTN as evidence by ___ and hypertensive CVA. Does not 
appear to be cocaine induced as last time he used was ___. 
Discharged on the above anti-hypertensive regimen. Reported 
history of angioedema to ACE-I so this medication was avoided.
    
# Subacute Stroke: Patient with 3 week hx of R hand weakness. 
Stroke w/u done significant for MRI with multiple lacunes and 
white matter changes consistent with long-standing severe HTN. 
Low suspicion for cardioembolic given pattern of MRI, but can 
consider completing stroke w/u with TTE as an outpatient. HgbA1c 
and cholesterol wnl. started on ASA 81. Neurology was consulted 
and indicated subacute to chronic strokes and recommended 
aggressive BP control.

# Hyperthyroid: Incidentally found during stroke w/u. Patient 
endorsed proceeding w/l prior to presentation which can be 
explained. T3 and T4 levels were normal. Verbal sing out given 
to patients outpatient providers who indicated willingness to 
follow up and treat as an outpatient. Recommendations for 
further w/u below.
    
# Social stress: Patient recently divorced and recently 
witnessed a suicide by his cousin (hanging). SW seen, given 
referral for counseling through ___.

TRANSITIONAL ISSUES
[] patient may need a thyroid ultrasound, a radioactive iodine 
scan, and treatment for hyperthyroid.
[] BP will need to be checked in a acute outpatient follow up 
visit and Amlodipine and HCTZ will likely need to be titrated 
up.
[] Patient should continue to take a low dose aspirin, but does 
not need to be on a statin
[] patient will need a TTE as an outpatient to complete CVA w/u
[] pt was referred for counseling through ___.
CODE: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*6 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*5 
3.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*6 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive Urgency
Subacute Stroke
Hyperthyroid

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital for hypertensive urgency and 
concern for a subacute stroke. You were given medications to 
lower your blood pressure and had a workup for stroke with the 
appropriate labs and imaging. On your MRI there was significant 
evidence of small strokes in a pattern most consistent with long 
standing hypertension. You were started on two antihypertensive 
medications called amlodipine and hydrochlorothiazide. You were 
also started on an aspirin. You were noted to have high levels 
of your thyroid hormone, and the results were communicated over 
the phone to your Nurse ___ at ___ 
___. You will follow up with her team on ___. It is 
very important to take your medications and follow up with your 
doctor. 

It was a pleasure to take part in your care during your stay in 
the hospital. 

Sincerely, 

Your ___ Care Team
 
Followup Instructions:
___